US07425560B2
a) 6-Amino-1-(3-methoxypropyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one
Sodium methoxide (0.81 g, 21.2 mmol, 1.05 eq.) was added to a solution of 3-methoxypropylthiourea (3.00 g, 20.2 mmol) in ethanol (10 mL). Ethyl cyanoacetate (2.18 mL, 20.2 mmol) in ethanol (10 mL) was added and the resulting white slurry was heated to reflux for 2.5 h. The solvent was evaporated and the remaining pale brown oil was treated with 2M acetic acid (15 mL,). The white crystals were filtered off and washed with acetic acid to give the title compound (2.10 g, 48%).

reactant | Sodium methoxide | 21.2 mmol, 0.81 g, 1.05 eq. | C[O-].[Na+]
reactant | 3-methoxypropylthiourea | 20.2 mmol, 3.00 g | COCCCNC(=S)N | C5H12N2OS
reactant | Ethyl cyanoacetate | 20.2 mmol, 2.18 mL | C(#N)CC(=O)OCC | C5H7NO2
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 6-Amino-1-(3-methoxypropyl)-2-thioxo-2,3-dihydro-1H-pyrimidin-4-one | 2.10 g, 48% | NC1=CC(NC(N1CCCOC)=S)=O | C8H13N3O2S
